US05650428
The procedure described in Example 1 was repeated, except that dihydropyran (2.7 g) and ethyl p-aminobenzoate (2.13 g) were successively reacted with (RS)-2-(4-chlorobenzenesulfonylamino)-3-hydroxypropanoic acid (3 g) to obtain (RS)-2-(4-chlorobenzenesulfonylamino)-N-(4-ethoxycarbonylphenyl)-3-(tetrahydropyran-2-yloxy)propanamide (1.962 g).

reactant | dihydropyran | 2.7 g | O1CCCC=C1 | C5H8O
reactant | ethyl p-aminobenzoate | 2.13 g | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | (RS)-2-(4-chlorobenzenesulfonylamino)-3-hydroxypropanoic acid | 3 g | ClC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)O)CO | C9H10ClNO5S
product | (RS)-2-(4-chlorobenzenesulfonylamino)-N-(4-ethoxycarbonylphenyl)-3-(tetrahydropyran-2-yloxy)propanamide | 1.962 g | ClC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)NC1=CC=C(C=C1)C(=O)OCC)COC1OCCCC1 | C23H27ClN2O7S
